US09126970B2
Synthesis of biphenyl-4-yl-(9,9-dimethyl-9H-fluoren-2-yl)-(12,12-dimethyl-10-phenyl-10,12-dihydro-10-azaindeno[2,1-b]fluoren-7-yl)amine
190 μl (1 mmol) of di-tert-butylphosphine chloride and then 112 mg (0.5 mmol) of palladium(II)acetate are added to a suspension of 26.3 g (50 mmol) of biphenyl-4-yl-(12,12-dimethyl-10-phenyl-10,12-dihydro-10-azaindeno[2,1-b]fluoren-7-yl)amine, 13.3 g (49 mmol) of 2-bromo-9,9-dimethylfluorene and 7.7 g (80 mmol) of sodium tert-butoxide in 500 ml of toluene, and the mixture is subsequently heated under reflux for 5 h. After cooling to 60° C., 500 ml of water are added, the organic phase is separated off, filtered through silica gel, evaporated virtually to dryness under reduced pressure at 80° C., and 300 ml of ethanol are then added. After cooling, the solid is filtered off with suction and then recrystallised five times from dioxane. Yield: 31.5 g (43 mmol), 88%, purity 99.9% (HPLC).

reactant | di-tert-butylphosphine chloride | 1 mmol, 190 μl | [Cl-].C(C)(C)(C)PC(C)(C)C
reactant | biphenyl-4-yl-(12,12-dimethyl-10-phenyl-10,12-dihydro-10-azaindeno[2,1-b]fluoren-7-yl)amine | 50 mmol, 26.3 g | C1(=CC=C(C=C1)NC=1C=C2C=3C=C4C(=CC3N(C2=CC1)C1=CC=CC=C1)C(C1=CC=CC=C14)(C)C)C1=CC=CC=C1 | C39H30N2
reactant | 2-bromo-9,9-dimethylfluorene | 49 mmol, 13.3 g | BrC1=CC=2C(C3=CC=CC=C3C2C=C1)(C)C | C15H13Br
reactant | sodium tert-butoxide | 80 mmol, 7.7 g | CC(C)([O-])C.[Na+]
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
catalyst | palladium(II)acetate | 0.5 mmol, 112 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | 500 ml | O | H2O
product | biphenyl-4-yl-(9,9-dimethyl-9H-fluoren-2-yl)-(12,12-dimethyl-10-phenyl-10,12-dihydro-10-azaindeno[2,1-b]fluoren-7-yl)amine | C1(=CC=C(C=C1)N(C=1C=C2C=3C=C4C(=CC3N(C2=CC1)C1=CC=CC=C1)C(C1=CC=CC=C14)(C)C)C1=CC=4C(C2=CC=CC=C2C4C=C1)(C)C)C1=CC=CC=C1 | C54H42N2
